US07504401B2
A solution of 5-[3-hydroxy-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenylamino]-pyridin-2-ol (taken as 0.126 mmol) in TFA/CH2Cl2 (5 mL/5 mL)) was stirred at 0° C. for 1 h. The resulting mixture was concentrated, and saturated aqueous NaHCO3 was added. The pH was adjusted to around 7 and the mixture was extracted with EtOAc (with a small amount of MeOH) several times. After filtering through Celite®, the organic layer was separated, dried and concentrated. Purification by chromatography and further purification by prep-SFC afforded 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridin-2-ol as a brown solid (0.6 mg, 1.5%). 1H NMR (400 MHz, CDCl3): δ 7.62 (dd, J=9.7, 2.8 Hz, 1H), 7.33 (d, J=8.0 Hz, 1H), 7.28 (d, J=2.9 Hz, 1H), 7.23 (d, J=3.3 Hz, 1H), 7.11 (t, J=7.7 Hz, 1H), 7.01 (d, J=7.2 Hz, 1H), 6.63-6.55 (m, 4H), 6.26 (t, J=2.0 Hz, 1H).

reactant | 5-[3-hydroxy-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenylamino]-pyridin-2-ol | 0.126 mmol | OC=1C=C(C=C(C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)NC=1C=CC(=NC1)O | C28H35N3O2Si
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridin-2-ol | 0.6 mg, 1.5% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)NC=1C=CC(=NC1)O | C19H15N3O2
